US04461905
To a solution of 0.42 g of sodium hydroxide in 30 ml of water was added 2.3 g of ethyl 4-(1-imidazolylmethyl)phenoxyacetate and the mixture was stirred at room temperature for 20 minutes. After completion of the reaction, an adequate amount of diluted hydrochloric acid was added to the solution to make it acidic. The reaction mixture was concentrated to dryness under reduced pressure, and the residue was recrystallized from water to obtain 2.4 g of 4-(1-imidazolylmethyl)phenoxyacetic acid hydrochloride monohydrate (94.9% yield). Colorless needles.

reactant | sodium hydroxide | 0.42 g | [OH-].[Na+]
reactant | ethyl 4-(1-imidazolylmethyl)phenoxyacetate | 2.3 g | N1C(=NC=C1)CC1=CC=C(OCC(=O)OCC)C=C1 | C14H16N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 4-(1-imidazolylmethyl)phenoxyacetic acid hydrochloride monohydrate | 2.4 g, 94.9% yield | O.Cl.N1C(=NC=C1)CC1=CC=C(OCC(=O)O)C=C1 | InChI=1S/C12H12N2O3.ClH.H2O/c15-12(16)8-17-10-3-1-9(2-4-10)7-11-13-5-6-14-11;;/h1-6H,7-8H2,(H,13,14)(H,15,16);1H;1H2
